US08937091B2
1-methyl-6-acryloylnaphthalene 8211
1-methylnaphthalene (142 mg), acryloyl chloride (100 mg), and aluminium chloride (150 mg) were reacted in carbon disulfide (0.5 mL) at from −20° C. to room temperature for 1 hour. The resultant was treated in the same manner as described in Example 1 to obtain the title compound (169 mg) in a viscous liquid form.

reactant | 1-methylnaphthalene | 142 mg | CC1=CC=CC2=CC=CC=C12 | C11H10
reactant | acryloyl chloride | 100 mg | C(C=C)(=O)Cl | C3H3ClO
reactant | aluminium chloride | 150 mg | [Cl-].[Al+3].[Cl-].[Cl-]
solvent | carbon disulfide | 0.5 mL | C(=S)=S | CS2
product | 1-methyl-6-acryloylnaphthalene | 169 mg | CC1=CC=CC2=CC(=CC=C12)C(C=C)=O | C14H12O
